US08975256B2
7-(4-Aminoacetylamino-2-methoxyphenyl)-8-(5-fluoro-2-methylphenoxymethyl)-1,3,3-trimethyl-3,4-dihydro-1H-quinoxalin-2-one hydrochloride (Compound No. 20)
7-(4-tert-Butoxycarbonylaminoacetylamino-2-methoxyphenyl)-8-(5-fluoro-2-methylphenoxymethyl)-1,3,3-trimethyl-3,4-dihydro-1H-quinoxalin-2-one (Compound No. 15-31, 10.5 mg, 0.0173 mmol) was dissolved in 1,4-dioxane (0.2 mL), 4N 1,4-dioxane solution of hydrochloride (41.3 μL, 0.165 mmol) was added thereto. After the reaction mixture was stirred for 4 hours at room temperature, it was diluted with hexane (10 mL). The precipitated solid was filtered to give the titled compound (7.8 mg) as a pale yellow solid. (Yield 83%)

reactant | 7-(4-tert-Butoxycarbonylaminoacetylamino-2-methoxyphenyl)-8-(5-fluoro-2-methylphenoxymethyl)-1,3,3-trimethyl-3,4-dihydro-1H-quinoxalin-2-one | 0.0173 mmol, 10.5 mg | C(C)(C)(C)OC(=O)NCC(=O)NC1=CC(=C(C=C1)C1=CC=C2NC(C(N(C2=C1COC1=C(C=CC(=C1)F)C)C)=O)(C)C)OC | C33H39FN4O6
reactant | hydrochloride | 0.165 mmol, 41.3 μL | Cl | ClH
solvent | 1,4-dioxane | 0.2 mL | O1CCOCC1 | C4H8O2
solvent | hexane | 10 mL | CCCCCC | C6H14
solvent | 1,4-dioxane | 4N | O1CCOCC1 | C4H8O2
product | 7-(4-Aminoacetylamino-2-methoxyphenyl)-8-(5-fluoro-2-methylphenoxymethyl)-1,3,3-trimethyl-3,4-dihydro-1H-quinoxalin-2-one hydrochloride | 7.8 mg, Yield 83% | Cl.NCC(=O)NC1=CC(=C(C=C1)C1=CC=C2NC(C(N(C2=C1COC1=C(C=CC(=C1)F)C)C)=O)(C)C)OC | InChI=1S/C28H31FN4O4.ClH/c1-16-6-7-17(29)12-23(16)37-15-21-19(10-11-22-26(21)33(4)27(35)28(2,3)32-22)20-9-8-18(13-24(20)36-5)31-25(34)14-30;/h6-13,32H,14-15,30H2,1-5H3,(H,31,34);1H
